US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-2,5-dimethyl-1,3-oxazole-4-carboxamide
To a solution of N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (202 mg, 0.652 mmol) in N,N-dimethylacetamide (4.0 mL) was added a solution of 2,5-dimethyl-1,3-oxazole-4-carbonyl chloride (135 mg, 0.847 mmol) in N,N-dimethylacetamide (1.0 mL), and the mixture was stirred at 0° C. for 1 hr. Ethyl acetate/tetrahydrofuran and saturated aqueous sodium hydrogencarbonate solution were added to the mixture, and the aqueous layer was extracted three times with ethyl acetate/tetrahydrofuran. Combined organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=20/80→490/10), and precipitated from ethyl acetate/hexane to give the title compound (213 mg, 76%) as a white powder. melting point 224° C.

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.652 mmol, 202 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | 2,5-dimethyl-1,3-oxazole-4-carbonyl chloride | 0.847 mmol, 135 mg | CC=1OC(=C(N1)C(=O)Cl)C | C6H6ClNO2
reactant | Ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 4.0 mL | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 1.0 mL | CN(C(C)=O)C | C4H9NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-2,5-dimethyl-1,3-oxazole-4-carboxamide | 213 mg, 76% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(=O)C=2N=C(OC2C)C)C1 | C22H20N6O4
